US05599852
LIQUID POLYMERS OF ε-CAPROLACTONE/L-LACTIDE AT 50/50 INITIAL MOLE COMPOSITION
The procedure in Example 3 was substantially repeated, except that 4.4 mL (60 mmol) propylene glycol (USP grade) was used instead of 5.6 mL of 1-dodecanol. The copolymer had an inherent viscosity of 0.17 dL/g in HFIP at 25° C.

reactant | propylene glycol | 60 mmol, 4.4 mL | C(C(C)O)O | C3H8O2
solvent | HFIP | C(C(F)(F)F)(C(F)(F)F)O | C3H2F6O
product | ε-CAPROLACTONE L-LACTIDE | C1(CCCCCO1)=O.C[C@H]1C(=O)O[C@H](C(=O)O1)C | InChI=1S/C6H8O4.C6H10O2/c1-3-5(7)10-4(2)6(8)9-3;7-6-4-2-1-3-5-8-6/h3-4H,1-2H3;1-5H2/t3-,4-;/m0./s1
